US06806265B2
d) 5-{4-[2-(11-Ethyl-6,11-dihydro-5-methyl-6-oxo-5H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-8-yl)ethoxy]phenyl}-2-methyl-3-furanecarboxylic acid
A mixture of ethyl 5-{4-[2-(11-ethyl-6,11-dihydro-5-methyl-6-oxo-5H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-8-yl)ethoxy]phenyl}-2-methyl-3-furanecarboxylate (64.0 mg, 0.12 mmol) and aqueous 1 N NaOH solution (2.00 mL, 2.00 mmol) in MeOH (2 mL) and THF (2 mL) was stirred at 25° C. for 3 h. The reaction mixture was concentrated under reduced pressure. The residue was diluted with water and the resulting solution was washed with Et2O (3×). The aqueous layer was acidified with aqueous 1 N HCl solution (pH 3) and extracted with EtOAc. The organic layer was washed with water and brine, dried (MgSO4), filtered and concentrated under reduced pressure. The title compound (53 mg, 0.11 mmol) was suspended in water (5 mL) and treated with aqueous 0.1 N NaOH solution (1.06 mL, 0.11 mmol). The mixture was diluted with MeCN (2 mL) and the resulting solution was frozen and lyophilized to give the corresponding sodium salt of the title compound 1047 (50 mg, 79% yield) as a pale yellow solid.

reactant | ethyl 5-{4-[2-(11-ethyl-6,11-dihydro-5-methyl-6-oxo-5H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-8-yl)ethoxy]phenyl}-2-methyl-3-furanecarboxylate | 0.12 mmol, 64.0 mg | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)CCOC3=CC=C(C=C3)C3=CC(=C(O3)C)C(=O)OCC)=O)C)C=CC=N2 | C30H30N4O5
reactant | NaOH | 2.00 mmol, 1 N, 2.00 mL | [OH-].[Na+]
solvent | MeOH | 2 mL | CO | CH4O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 5-{4-[2-(11-Ethyl-6,11-dihydro-5-methyl-6-oxo-5H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-8-yl)ethoxy]phenyl}-2-methyl-3-furanecarboxylic acid | 0.11 mmol, 53 mg | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)CCOC3=CC=C(C=C3)C3=CC(=C(O3)C)C(=O)O)=O)C)C=CC=N2 | C28H26N4O5
